US06653471B2
In a round bottom flask under N2 atm. are the 1-[2-(4-Nitro-phenyl)-ethyl]-4-oxo-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridine-3-carboxylic acid methyl ester (48.64 mmol), P4S10 (24.32 mmol) and 240 mL pyridine combined and heated at 65° C. for 8 hours. After cooling to RT it is poured over ˜600 mL ice and stirred for 2 hours. The yellow solid is filtered off, washed (2×) with water and dried on the high vacuum for 18 h to yield 1-[2-(4-Nitro-phenyl)-ethyl]-4-thioxo-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-C]pyridine-3-carboxylic acid methyl ester, 10.24 g, as a yellow solid (65%): 1H NMR (CD3OD) 2.43 (t, 2H), 3.16 (t, 2H), 3.28-3.33 (m, 2H), 3.75 (s, 3H), 4.21 (t, 2H), 7.16 (s, 1H), 7.30 (d, 2H), 8.13 (d, 2H); LRMS calcd 359.41, found [M+H] 360.2.

reactant | 1-[2-(4-Nitro-phenyl)-ethyl]-4-oxo-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridine-3-carboxylic acid methyl ester | 48.64 mmol | COC(=O)C1=CN(C2=C1C(NCC2)=O)CCC2=CC=C(C=C2)[N+](=O)[O-] | C17H17N3O5
reactant | P4S10 | 24.32 mmol | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
solvent | pyridine | 240 mL | N1=CC=CC=C1 | C5H5N
product | 1-[2-(4-Nitro-phenyl)-ethyl]-4-thioxo-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-C]pyridine-3-carboxylic acid methyl ester | COC(=O)C1=CN(C2=C1C(NCC2)=S)CCC2=CC=C(C=C2)[N+](=O)[O-] | C17H17N3O4S
